US08048881B2
1.1. 4-((S)-2-benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
Z-(L)Glu(OtBu)—OH (5 g), HOBT hydrate (2.5 g) and EDCI hydrochloride (3.1 g) were dissolved in DCM/THF (1/1, 42 ml). After 15 min stirring, 1-ethoxycarbonylpiperazine (2.6 g) was added and the stirring was continued overnight at RT. 150 ml of EA and 60 ml of a NaHCO3 solution were added to the mixture and the phases were separated. The org. phase was washed with 60 ml of a 1M NaHSO4 solution and 60 ml of a NaCl solution, was dried (Na2SO4) and evaporated off. After HV drying, 7 g of the desired compound were obtained.

reactant | Z-(L)Glu(OtBu)—OH | 5 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | HOBT hydrate | 2.5 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI hydrochloride | 3.1 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-ethoxycarbonylpiperazine | 2.6 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | NaHCO3 | 60 ml | C(=O)(O)[O-].[Na+]
solvent | DCM THF | 42 ml | C(Cl)Cl.C1CCOC1
solvent | EA | 150 ml | CC(OCC)=O | C4H8O2
product | 4-((S)-2-benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 7 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C24H35N3O7
